US08563512B2
D. (R)-3-[N-(3′-Chlorobiphenyl-4-ylmethyl)-N′-(3-hydroxyisoxazole-5-carbonyl)-hydrazino]-2-hydroxypropionic Acid Butyl Ester
(R)-3-[N-(3′-Chlorobiphenyl-4-ylmethyl)-N′-(3-hydroxy-isoxazole-5-carbonyl)-hydrazino]-2-hydroxy-propionic acid (60 mg, 0.1 mmol) was dissolved in 1-propanol (4 mL, 50 mmol) and 4 M HCl in dioxane (700 mL, 3 mmol) was added. The mixture was stirred at room temperature until the reaction was complete (˜3 hours), then evaporated under reduced pressure and purified (Interchim reverse phase chromatography column, 30-95% MeCN in water with 5% TFA). The clean fractions were combined and lyophilized, then purified by preparative HPLC to yield the title compound (43 mg, purity 95%). MS m/z [M+H]+ calc'd for C24H26ClN3O6, 488.15. found 488.4.

reactant | (R)-3-[N-(3′-Chlorobiphenyl-4-ylmethyl)-N′-(3-hydroxy-isoxazole-5-carbonyl)-hydrazino]-2-hydroxy-propionic acid | 0.1 mmol, 60 mg | ClC=1C=C(C=CC1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)O)C[C@H](C(=O)O)O | C20H18ClN3O6
reactant | 1-propanol | 50 mmol, 4 mL | C(CC)O | C3H8O
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 3 mmol, 700 mL | O1CCOCC1 | C4H8O2
product | (R)-3-[N-(3′-Chlorobiphenyl-4-ylmethyl)-N′-(3-hydroxyisoxazole-5-carbonyl)-hydrazino]-2-hydroxypropionic Acid Butyl Ester | 43 mg | C(CCC)OC([C@@H](CN(NC(=O)C1=CC(=NO1)O)CC1=CC=C(C=C1)C1=CC(=CC=C1)Cl)O)=O | C24H26ClN3O6
